US07842688B2
b) Benzyl 4-(4-hydroxyphenyl)-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate
Analogously to Example 10f, 0.190 g of 7-[4-(4-hydroxyphenyl)piperidin-3-yloxymethyl]-1-(3-methoxypropyl)-3,4-dihydro-1H-quinolin-2-one and 0.070 ml of benzyl formate are reacted. The title compound is obtained as a white foam. Rf=0.19 (2:1 EtOAc-heptane); Rt=6.03.

reactant | 7-[4-(4-hydroxyphenyl)piperidin-3-yloxymethyl]-1-(3-methoxypropyl)-3,4-dihydro-1H-quinolin-2-one | 0.190 g | OC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C25H32N2O4
reactant | benzyl formate | 0.070 ml | C(=O)OCC1=CC=CC=C1 | C8H8O2
product | Benzyl 4-(4-hydroxyphenyl)-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C33H38N2O6
